US08232403B2
A crude 2-((R)-2-{4-[2-(benzyloxy)ethyl]cyclohexyl}pyrrolidin-1-yl)-6,7-difluoroquinoline-3-carbaldehyde is dissolved with ethanol-THF (120 mL/20 mL) and treated with sodium borohydride (1.33 g, 36 mmol) at 5° C., and the resulting mixture is stirred at the same temperature for 30 min. After addition of sat. NH4Cl aq. and ethyl acetate, the mixture is partially concentrated to remove ethanol. The mixture is extracted with EtOAc, and the organic layer is washed with brine, dried over magnesium sulfate, filtered and concentrated. The crude product is purified by silica gel column chromatography to give [2-((R)-2-{4-[2-(benzyloxy)ethyl]cyclohexyl}pyrrolidin-1-yl)-6,7-difluoroquinolin-3-yl]methanol as a yellow syrup.

reactant | 2-((R)-2-{4-[2-(benzyloxy)ethyl]cyclohexyl}pyrrolidin-1-yl)-6,7-difluoroquinoline-3-carbaldehyde | C(C1=CC=CC=C1)OCCC1CCC(CC1)[C@@H]1N(CCC1)C1=NC2=CC(=C(C=C2C=C1C=O)F)F | C29H32F2N2O2
reactant | ethanol THF | 120 mL | C(C)O.C1CCOC1
reactant | sodium borohydride | 36 mmol, 1.33 g | [BH4-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [2-((R)-2-{4-[2-(benzyloxy)ethyl]cyclohexyl}pyrrolidin-1-yl)-6,7-difluoroquinolin-3-yl]methanol | C(C1=CC=CC=C1)OCCC1CCC(CC1)[C@@H]1N(CCC1)C1=NC2=CC(=C(C=C2C=C1CO)F)F | C29H34F2N2O2
